US04554006
N-Crotonyl-N-[3-(2,4-dichlorophenyl)-2-methyl-2-prop-1-en-1yl-propyl]-pyrrolidinium bromide (Example 20)
A solution of 31.2 g of N-[3-(2,4-dichorophenyl)-2-methyl-2-prop-1-en-1-yl-propyl]-pyrrolidine and 27 g of crotyl bromide in 250 ml of ethyl acetate is refluxed for 5 hours. The mixture is then stirred for 15 hours at room temperature and the crystalline product which is obtained is filtered off, washed with ether and dried in vacuo. 15 g of the desired product is obtained; m.p.: 128° C.

reactant | N-[3-(2,4-dichorophenyl)-2-methyl-2-prop-1-en-1-yl-propyl]-pyrrolidine | 31.2 g | ClC1=C(C=CC(=C1)Cl)CC(CN1CCCC1)(C=CC)C | C17H23Cl2N
reactant | crotyl bromide | 27 g | C(C=CC)Br | C4H7Br
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | N-Crotonyl-N-[3-(2,4-dichlorophenyl)-2-methyl-2-prop-1-en-1yl-propyl]-pyrrolidinium bromide | 15 g | [Br-].C(\C=C\C)(=O)[N+]1(CCCC1)CC(CC1=C(C=C(C=C1)Cl)Cl)(C=CC)C | InChI=1S/C21H28Cl2NO.BrH/c1-4-8-20(25)24(12-6-7-13-24)16-21(3,11-5-2)15-17-9-10-18(22)14-19(17)23;/h4-5,8-11,14H,6-7,12-13,15-16H2,1-3H3;1H/q+1;/p-1/b8-4+,11-5?;
